US07786044B2
39. Preparation of 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-(1-methoxyethyl)pyrimidine-4-carboxylic acid (Compound 40)
6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-(1-fluoroethyl)pyrimidine-4-carboxylic acid methyl ester (0.100 g, 0.280 mmol) was dissolved/suspended in methanol (10 mL) and 2N sodium hydroxide (0.561 mL, 1.121 mmol) was added. The reaction mixture was stirred overnight at ambient temperature, acidified with 2N HCl, and concentrated. The precipitate that formed was filtered, washed with water, and dried to provide the title compound (0.085 g, 85% yield) as a white solid, mp 165-167° C.: 1H NMR (DMSO-d6 and drop of D2O) δ 7.60 (dd, 1H), 7.39 (dd, 1H), 4.55 (q, 1H), 3.91 (s, 3H), 3.17 (s, 3H), 1.41 (dd, 3H).

reactant | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-(1-fluoroethyl)pyrimidine-4-carboxylic acid methyl ester | 0.280 mmol, 0.100 g | COC(=O)C1=NC(=NC(=C1C(C)F)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H14ClF2N3O3
reactant | sodium hydroxide | 1.121 mmol, 2N, 0.561 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | methanol | 10 mL | CO | CH4O
product | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-(1-methoxyethyl)pyrimidine-4-carboxylic acid | 0.085 g, 85% yield | NC1=C(C(=NC(=N1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)O)C(C)OC | C15H15ClFN3O4
